US07662972B2
Step 2: Production of 3-(4-acetoxymethyl-3-fluorophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole
In a solution of crude 3-(4-bromomethyl-3-fluorophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 30 ml of acetic acid, 1.50 g of potassium acetate was added, and stirred under reflux with heat for 1.5 hour. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and neutralized by pouring in 100 ml of saturated sodium hydrogen carbonate aqueous solution. The organic phase was collected, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 1.50 g of crude aimed product as pale yellow oily substance. The resulting product was used as such without purification for the next step.

reactant | 3-(4-bromomethyl-3-fluorophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | BrCC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)F | C17H10BrCl2F4NO
reactant | potassium acetate | 1.50 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
product | 3-(4-acetoxymethyl-3-fluorophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 1.50 g | C(C)(=O)OCC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)F | C19H13Cl2F4NO3
